US06451740B2
0.23 g of 2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenol was dissolved in 6 ml of N,N-dimethylformamide, and to this was added 0.22 g of anhydrous potassium carbonate, and 0.13 g of methyl 2-bromopropionate was added with stirring at room temperature, then, the mixtures was stirred for 3 hours at 80° C. The reaction solution was cooled to room temperature, then, the reaction solution was poured into ice water, and extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residues was subjected to silica gel column chromatography to obtain 0.23 g of methyl 2-[2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]propionate [Compound 3-1 of the present invention].

reactant | 2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenol | 0.23 g | ClC1=C(OC2=C(C=CC=C2)O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C18H11ClF4N2O4
reactant | potassium carbonate | 0.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-bromopropionate | 0.13 g | BrC(C(=O)OC)C | C4H7BrO2
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | methyl 2-[2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]propionate | 0.23 g | ClC1=C(OC2=C(OC(C(=O)OC)C)C=CC=C2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C22H17ClF4N2O6
